US05859007
2-[7-Fluoro-3-(1H-indazol-3-ylmethyl)-2,4-dioxo-5-pyridin-3-yl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl]-N-isopropyl-N-(4-methoxy-phenyl)-acetamide
To a solution of 5 mL of trifluoroacetic acid under nitrogen is add 364 mg of 2-[7-fluoro-3-(1-tertbutoxycarbonyl-indazol-3-ylmethyl)-2,4-dioxo-5-pyridin-3-yl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl]-N-isopropyl-N-(4-methoxy-phenyl)-acetamide, prepared as in Intermediate 66. After stirring at ambient temperature for 20 min, the reaction mixture is evaporated in vacuo and the residue is partitioned between ethyl acetate and saturated aqueous sodium bicarbonate. The layers were separated and the aqueous layer is back-extracted with dichloromethane. The organic layers were combined, washed with aqueous sodium hydroxide (1N), dried over anhydrous sodium sulfate, filtered and evaporated in vacuo. The residue is triturated with hexane, the hexane is removed in vacuo, and the residual solid is dried under high vacuum to provide 286 mg of the title compound as a white solid: 1H NMR (300 MHz, CDCl3) δ8.67 (s, br, 1H), 8.56 (dd, 1H, J=1.5, 5.2), 8.10 (d, 1H, J=8.1), 7.82 (d, 1H, J=8.1), 7.52 (dd, 1H, J=5.3, 8.3), 7.35 (m, 3H), 7.14 (m, 3H), 7.03 (m, 1H), 6.96 (m, 3H), 6.61 (dd, 1H, J=2.7, 8.9), 4.92 (m, 1H), 4.51 (d, 1H, J=15.8), 4.29 (dd, 1H, J=5.8, 7.7), 4.05 (d, 1H, J=16.0), 3.84 (s, 3H), 3.78 (dd, 1H, J=7.8, 16.4), 3.61 (dd, 1H, J=5.9, 16.2), 1.03 (d, 6H, J=6.8); low resolution MS (FAB)m/e 607 (MH+).

reactant | trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 2-[7-fluoro-3-(1-tertbutoxycarbonyl-indazol-3-ylmethyl)-2,4-dioxo-5-pyridin-3-yl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl]-N-isopropyl-N-(4-methoxy-phenyl)-acetamide | 364 mg | FC1=CC2=C(N(C(C(C(N2C=2C=NC=CC2)=O)CC2=NN(C3=CC=CC=C23)C(=O)OC(C)(C)C)=O)CC(=O)N(C2=CC=C(C=C2)OC)C(C)C)C=C1 | C39H39FN6O6
product | 2-[7-Fluoro-3-(1H-indazol-3-ylmethyl)-2,4-dioxo-5-pyridin-3-yl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl]-N-isopropyl-N-(4-methoxy-phenyl)-acetamide | 286 mg | FC1=CC2=C(N(C(C(C(N2C=2C=NC=CC2)=O)CC2=NNC3=CC=CC=C23)=O)CC(=O)N(C2=CC=C(C=C2)OC)C(C)C)C=C1 | C34H31FN6O4
